US08232312B2
tert-butyl 5-nitro-2,3-dihydro-indole-1-carboxylate
5 g 5-nitro-2,3-dihydro-1H-indole are dissolved in 70 ml acetonitrile. 7.3 g di-tert-butyl-dicarbonate and 900 mg 4-dimethylaminopyridine are added thereto. After stirring for 24 hours at ambient temperature the mixture is divided between 1 N HCl and ethyl acetate. The aqueous phase is extracted with ethyl acetate and the combined organic phases are washed with saturated sodium hydrogen carbonate solution and saturated sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo. The residue is extracted from diisopropylether/petroleum ether.

reactant | 5-nitro-2,3-dihydro-1H-indole | 5 g | [N+](=O)([O-])C=1C=C2CCNC2=CC1 | C8H8N2O2
reactant | di-tert-butyl-dicarbonate | 7.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 900 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 5-nitro-2,3-dihydro-indole-1-carboxylate | [N+](=O)([O-])C=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C13H16N2O4
